US07479493B2
Step B: [5-Bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-amine.
To a mixture of 5-bromo-2-(3,4-dichloro-phenoxy)-benzaldehyde (4.74 g, 13.8 mmol) in MeOH (250 mL) was added MeNH2 (40% aq.; 20 mL, 260 mmol), and the resulting mixture was stirred at rt until homogeneous. The mixture was cooled to 0° C. and treated with NaBH4 (1.05 g, 27.8 mmol) portionwise. After 24 h, the mixture was concentrated and the residue was diluted with 1 N NaOH and extracted with DCM. The combined organic layers were dried (Na2SO4) and concentrated. The crude product was purified by FCC to provide the desired product (4.80 g, 97%). MS (ESI): mass calcd. for C14H12BrCl2NO, 358.95; m/z found, 360.1 [M+H]+. 1H NMR (CDCl3): 7.61 (d, J=2.5, 1H), 7.40-7.37 (m, 2H), 7.03 (d, J=2.8, 1H), 6.82-6.79 (m, 2H), 3.72 (s, 2H), 2.44 (s, 3H), 1.30-1.21 (m, 1H).

reactant | 5-bromo-2-(3,4-dichloro-phenoxy)-benzaldehyde | 13.8 mmol, 4.74 g | BrC=1C=CC(=C(C=O)C1)OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O2
reactant | MeNH2 | 260 mmol, 20 mL | CN | CH5N
reactant | NaBH4 | 27.8 mmol, 1.05 g | [BH4-].[Na+]
solvent | MeOH | 250 mL | CO | CH4O
product | [5-Bromo-2-(3,4-dichloro-phenoxy)-benzyl]-methyl-amine | 4.80 g, 97% | BrC=1C=CC(=C(CNC)C1)OC1=CC(=C(C=C1)Cl)Cl | C14H12BrCl2NO
